US09315532B2
1,3,4,6-Tetra-O-acetyl-N-(4-oxo-hexanoyl)-D-mannosamine (mixture of anomers) (Ac4ManNHomo-Lev).
To a solution of 2.6 mL (19 mmol) of triethylamine in 56 mL of anhydrous THF was added 2.47 g (19 mmol) of 4-oxo-hexanoic acid (Sigma Aldrich, Milwaukee Wis.). The reaction was stirred for 15 min at rt under a N2 atmosphere after which 2.4 mL (19 mmol) of isobutyl chloroformate was added drop wise by a syringe. The reaction was stirred for 3.0 h during which time a white precipitate formed. The 4-oxo-hexanoic acid carbonic anhydride was used in the next step without further purification. To a solution of 3.6 g (17 mmol) of mannosamine hydrochloride in 112 mL of 1:1 H2O/THF was added 3.1 mL (22 mmol) of triethylamine. The solution was stirred for 15 min at rt after which the 4-oxo-hexanoic acid carbonic anhydride was added drop wise by an addition funnel. The reaction was stirred for another 36 h under a N2 atmosphere and the solution was concentrated in vacuo. The crude compound was acetylated by treatment with 40 mL of 2:1 Pyr/Ac2O. The reaction was stirred for 12 h at rt and then the solution was concentrated in vacuo. The resulting syrup was washed with 1.0 M HCl (2×30 mL) and saturated NaHCO3 (1×30 mL), then dried over Na2SO4. Purification of the crude compound by silica gel chromatography yielded a white foam.

reactant | triethylamine | 19 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | 4-oxo-hexanoic acid | 19 mmol, 2.47 g | O=C(CCC(=O)O)CC | C6H10O3
reactant | isobutyl chloroformate | 19 mmol, 2.4 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | mannosamine hydrochloride | 17 mmol, 3.6 g | Cl.OC1[C@@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | triethylamine | 22 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | 4-oxo-hexanoic acid carbonic anhydride | C(O)(=O)OC(CCC(CC)=O)=O | C7H10O5
reactant | H2O THF | 112 mL | O.C1CCOC1
solvent | THF | 56 mL | C1CCOC1 | C4H8O
product | 1,3,4,6-Tetra-O-acetyl-N-(4-oxo-hexanoyl)-D-mannosamine | C(C)(=O)OC1[C@@H](NC(CCC(CC)=O)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C20H29NO11
